US08802064B2
A solution of 5-bromophthalide (1.0 g, 4.7 mmol, 1.0 equiv) and NBS (850 mg, 4.7 mmol, 1.0 equiv) in carbon tetrachloride (15 mL) was treated with AIBN (50 mg, cat.) and heated to reflux overnight. The hot reaction mixture was filtered and the filtrate concentrated to a yellowish solid (1.38 g, quant.). Crude 1H NMR indicated this material contained ca. 80% of the desired 3,5-dibromophthalide, and it was carried on without further purification. An aliquot of this crude material (250 mg, 0.69 mmol, 1.0 equiv) in 95% ethanol (6 mL) was treated with phenelzine sulfate (175 mg, 0.75 mmol, 1.1 equiv) and NaHCO3 (250 mg, 2.8 mmol, 4.0 equiv). After stirring overnight at ambient temperature, the reaction mixture was diluted with diethyl ether, washed with dilute NaOH, dilute HCl, and saturated NaHCO3, then dried over Na2SO4 and concentrated. Purification of the residue using flash silica gel chromatography (gradient of 3-12% ethyl acetate/hexanes) provided 6-bromo-2-phenethyl-1-phthalazinone (147 mg, 0.45 mmol, 65%) as a white solid. This crude phthalazinone (147 mg, 0.45 mmol) was converted, via Methods 1 and 2, to compound 13 (81 mg, 62%) which was isolated as a white solid. [M-H]-=293.1 m/z. Activity: A

reactant | 5-bromophthalide | 4.7 mmol, 1.0 g, 1.0 equiv | BrC=1C=C2COC(=O)C2=CC1 | C8H5BrO2
reactant | NBS | 4.7 mmol, 850 mg, 1.0 equiv | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 50 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | phenelzine sulfate | 0.75 mmol, 175 mg, 1.1 equiv | C=1C=CC(=CC1)CCNN.OS(=O)(=O)O
reactant | NaHCO3 | 2.8 mmol, 250 mg, 4.0 equiv | C(=O)(O)[O-].[Na+]
solvent | carbon tetrachloride | 15 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-bromo-2-phenethyl-1-phthalazinone | 0.45 mmol, 147 mg, 65% | BrC=1C=C2C=NN(C(C2=CC1)=O)CCC1=CC=CC=C1 | C16H13BrN2O
